US04025635
D. 3-(o-Aminophenylsulphonyl)-4-chlorobenzoic acid
A mixture of 4-chloro-3-(o-nitrophenylsulphonyl)benzoic acid (1.71g), stannous chloride (3.12g), concentrated hydrochloric acid (6.6 ml) and acetic acid (25 ml) was heated on the steam bath for 30 min., cooled, and diluted with water. 3-(o-Aminophenylsulphonyl)-4-chlorobenzoic acid was filtered off, washed with water and dried, m.p. 235°-238° C., providing on recrystallisation from acetic acid, m.p. 246°-248° C.

reactant | 4-chloro-3-(o-nitrophenylsulphonyl)benzoic acid | 1.71g | ClC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C13H8ClNO6S
reactant | hydrochloric acid | 6.6 ml | Cl | ClH
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3-(o-Aminophenylsulphonyl)-4-chlorobenzoic acid | NC1=C(C=CC=C1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C13H10ClNO4S
